US08084395B2
20 g (79 mmoles) of 4-iodo-2-methylthiopyrimidine in 165 mL of tetrahydrofuran under argon is cooled to −70° C. 45.5 mL of isopropylmagnesium chloride (2M in THF) is then slowly added to the reaction mixture, keeping the temperature at −70° C. After 30 min., a solution of 4-fluorophenyl acetyl chloride (13.7 g, 79 mmoles) in 65 mL tetrahydrofuran is added dropwise to the reaction mixture which is further stirred at −78° C. for 1 hour and allowed to reach 0° C. After 30 min. at 0° C., the reaction is poured into ice-water and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulfate. After concentration the oily purified by chromatography on silica gel (ethyl acetate/hexane 4/1) affording 9.5 g of 2-(4-Fluoro-phenyl)-1-(2-methylthio-pyrimidin-4-yl)-ethanone as yellow oil.

reactant | 4-iodo-2-methylthiopyrimidine | 79 mmoles, 20 g | IC1=NC(=NC=C1)SC | C5H5IN2S
reactant | isopropylmagnesium chloride | 2M, 45.5 mL | C(C)(C)[Mg]Cl
reactant | 4-fluorophenyl acetyl chloride | 79 mmoles, 13.7 g | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
solvent | tetrahydrofuran | 165 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 65 mL | O1CCCC1 | C4H8O
product | 2-(4-Fluoro-phenyl)-1-(2-methylthio-pyrimidin-4-yl)-ethanone | 9.5 g | FC1=CC=C(C=C1)CC(=O)C1=NC(=NC=C1)SC | C13H11FN2OS
